US09340549B2
2-Hydrazinyl-4-iodopyridine
A mixture of 2-chloro-4-iodopyridine (5000 mg, 20.88 mmol) (commercially available from Frontier Scientific, Inc., Logan Utah) and anhydrous hydrazine (32.8 mL, 1045 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) was heated at 70° C. for 30 minutes. LC-MS indicated complete conversion to desired product. The reaction mixture was concentrated under vacuum, and the solid was washed with water (3×15 mL) and air dried. The gray colored solid was used directly without further purification. m/z (ESI) 236.0 (M+H)+.

reactant | 2-chloro-4-iodopyridine | 20.88 mmol, 5000 mg | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | hydrazine | NN | H4N2
product | 2-Hydrazinyl-4-iodopyridine | N(N)C1=NC=CC(=C1)I | C5H6IN3
